US05475106
Using a procedure similar to that described in Example 1, but starting with 2-[2-amino-N-(3-methoxyphenyl)acetamido]-N-methyl-N-phenylacetamide (1.6 g) and 3-methylphenyl isocyanate (0.67 g), and after recrystallisation in acetonitrile, 2-{N-(3-methoxyphenyl)-2-[3-(3-methylphenyl)ureido]acetamido}-N-methyl-N-phenylacetamide (1.2 g), m.p. 179° C., is obtained.

reactant | 2-[2-amino-N-(3-methoxyphenyl)acetamido]-N-methyl-N-phenylacetamide | 1.6 g | NCC(=O)N(C1=CC(=CC=C1)OC)CC(=O)N(C1=CC=CC=C1)C | C18H21N3O3
reactant | 3-methylphenyl isocyanate | 0.67 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | 2-{N-(3-methoxyphenyl)-2-[3-(3-methylphenyl)ureido]acetamido}-N-methyl-N-phenylacetamide | 1.2 g | COC=1C=C(C=CC1)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)CC(=O)N(C1=CC=CC=C1)C | C26H28N4O4
